US05707989
4-[(3-Methylphenyl)amino]-6-methylthio-pyrimido[5,4-d]-pyrimidine
4.9 g of 4-chloro-6-methylthio-pyrimido[5,4-d]pyrimidine, 2.0 g of 3-methylaniline, 2.4 ml of triethylamine and 100 ml of dioxane are heated at 100° C. for 3 hours. After cooling, the reaction mixture is concentrated and partitioned between water and methylene chloride. The organic phase is separated off, dried and concentrated and the residue is purified by chromatography over a silica gel column (petroleum ether/ethyl acetate=2:1). The solid is triturated with diethyl ether, filtered off with suction and dried.

reactant | 4-chloro-6-methylthio-pyrimido[5,4-d]pyrimidine | 4.9 g | ClC=1C2=C(N=CN1)C=NC(=N2)SC | C7H5ClN4S
reactant | 3-methylaniline | 2.0 g | CC=1C=C(N)C=CC1 | C7H9N
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[(3-Methylphenyl)amino]-6-methylthio-pyrimido[5,4-d]-pyrimidine | CC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=N2)SC | C14H13N5S
